US06380239B1
1-(4-Methyl-1,3-dioxoisoindolin-2-yl)propane-1,3-dicarboxylic acid
A mixture of glutamic acid (10 mmol) and 4-methyphthalic anhydride below (10 mmol) in 20 mL of acetic acid is heated to reflux. The cooled reaction is then concentrated in vacuo. The residue is slurried in ethyl acetate and the resulting slurry filtered to afford the desired product. As an alternative to slurry filtering, column chromatography can be used to purify the desired product.

reactant | glutamic acid | 10 mmol | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | 4-methyphthalic anhydride | CC=1C=C2C(C(=O)OC2=O)=CC1 | C9H6O3
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 1-(4-Methyl-1,3-dioxoisoindolin-2-yl)propane-1,3-dicarboxylic acid | CC1=C2C(N(C(C2=CC=C1)=O)C(CCC(=O)O)C(=O)O)=O | C14H13NO6
